US07897597B2
2-Ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-8-ol (680 mg, 2.38 mmol) was dissolved in dichloromethane and mCPBA (60%, 750 mg, 2.62 mmol) was added. The reaction was monitored by TLC and when all of the starting material was determined to be consumed, 20 mL of 2% aqueous sodium carbonate was added. The organic layer was extracted with 2 additional portions of 2% sodium carbonate. The aqueous fractions were combined and concentrated hydrochloric acid was added dropwise until the pH reached 1. The pH was then adjusted to 5 with the portionwise addition of 2% sodium carbonate. A precipitate formed and was collected by filtration to give crude 2-ethoxymethyl-5-oxido-1-propyl-1H-imidazo[4,5-c]quinolin-8-ol as an off-white powder. The solid was combined in 50 mL of anhydrous THF with triphenylphosphine (1.2 g, 4.76 mmol) and pyridine-3-methanol (390 mg, 3.57 mmol). Diisopropyl azodicarboxylate (1.2 g, 5.95 mmol) was added dropwise. After 4 hours, additional portions of triphenylphosphine and pyridine-3-methanol followed by diisopropyldicarboxylate were added and the reaction was stirred for one hour. Water (1 mL) was added and the reaction stirred overnight. The reaction mixture was concentrated under reduced pressure and the resulting solid was dissolved in dichloromethane and washed 3 times with 50 mL portions of 2% aqueous sodium carbonate. The aqueous fractions were combined and extracted with chloroform. The organic fractions were combined, dried over magnesium sulfate, filtered, and concentrated to give crude 2-ethoxymethyl-5-oxido-1-propyl-8-(pyridin-3-ylmethoxy)-1H-imidazo[4,5-c]quinoline.

reactant | 2-Ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-8-ol | 2.38 mmol, 680 mg | C(C)OCC=1N(C2=C(C=NC=3C=CC(=CC23)O)N1)CCC | C16H19N3O2
reactant | mCPBA | 2.62 mmol, 750 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | triphenylphosphine | 4.76 mmol, 1.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | pyridine-3-methanol | 3.57 mmol, 390 mg | N1=CC(=CC=C1)CO | C6H7NO
reactant | Diisopropyl azodicarboxylate | 5.95 mmol, 1.2 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | Water | 1 mL | O | H2O
product | 2-ethoxymethyl-5-oxido-1-propyl-8-(pyridin-3-ylmethoxy)-1H-imidazo[4,5-c]quinoline | C(C)OCC=1N(C2=C(C=[N+](C=3C=CC(=CC23)OCC=2C=NC=CC2)[O-])N1)CCC | C22H24N4O3
